US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a solution of 1-(3-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene in example 36a (24 mmol) in toluene (100 mL) was added E/Z-3-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (3.85 g, 6 mmol). The reaction mixture was stirred under argon at 140° C. for 5 h. After cooled to room temperature, the mixture was concentrated. The residue was purified by chromatography (20%-30% EtOAc:DCM) to give the title compound as a off white solid (Yield: 0.38 g).

reactant | 1-(3-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC=1C=C(C=CC1)C=NC(=C)O[Si](C)(C)C | C12H16FNOSi
reactant | Z-3-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 6 mmol, 3.85 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Br)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H34BrClN2O6
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-phenyl]-6-chloro-2′-(3-fluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=CC(=CC=C1)F)C(NC1=CC(=CC=C12)Cl)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C34H34BrClFN3O5
